US03959278
7. 3-amino-3-methylbutan-2-one oxime hydrochloride (Salt of V) (Z=CH3)
3-Chloro-3-methyl-2-nitrosobutane (60 g.) was added portionwise to dry methanol (600 ml.) saturated with ammonia at 0°. The solution was left at room temperature for 5 hours then refluxed for 16 hours in the presence of a stream of dry ammonia. The mixture was evaporated to dryness in vacuo at room temperature and the residue extracted with hot dry benzene (900 ml.) followed by boiling secondary butanol (1300 ml.). The secondary butanol extract was evaporated in vacuo at room temperature to a thick slurry. This was cooled, filtered and dried in vacuo (56 g.) m.p. 190° (decomp).

reactant | 3-Chloro-3-methyl-2-nitrosobutane | 60 g | ClC(C(C)N=O)(C)C | C5H10ClNO
reactant | ammonia | N | H3N
solvent | methanol | 600 ml | CO | CH4O
product | 3-amino-3-methylbutan-2-one oxime hydrochloride | Cl.NC(C(C)=NO)(C)C | InChI=1S/C5H12N2O.ClH/c1-4(7-8)5(2,3)6;/h8H,6H2,1-3H3;1H
